* File: INVD8.pex.netlist.pex
* Created: Sat Dec 13 10:58:39 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_INVD8_net10 37 41 63 77 79 86 89 96 97 99 106 109 116 117 119 126 129
+ 136 137 139 146 149 156 157 159 166 169 176 177 179 186 189 196 197 199 206
+ 209 216 217 219 226 229 236 268 269 270 271 272 273 274 275 276 277 278 279
+ 280 281 282 283 284 285 286 287 288 289 290 291 292
r154 301 304 0.0984
r155 298 301 0.0984
r156 294 298 0.0984
r157 235 236 0.62445
r158 235 283 0.62445
r159 229 236 0.624484
r160 228 251 0.231882
r161 227 229 0.252919
r162 227 228 0.53136
r163 225 226 0.62445
r164 225 282 0.62445
r165 219 251 0.0151417
r166 219 226 0.624484
r167 218 250 0.231882
r168 217 251 0.231882
r169 217 218 0.53136
r170 215 216 0.62445
r171 215 281 0.62445
r172 209 250 0.0151417
r173 209 216 0.624484
r174 208 249 0.231882
r175 207 250 0.231882
r176 207 208 0.53136
r177 205 206 0.62445
r178 205 280 0.62445
r179 199 249 0.0151417
r180 199 206 0.624484
r181 198 248 0.231882
r182 197 249 0.231882
r183 197 198 0.53136
r184 195 196 0.62445
r185 195 279 0.62445
r186 189 248 0.0151417
r187 189 196 0.624484
r188 188 247 0.231882
r189 187 248 0.231882
r190 187 188 0.53136
r191 185 186 0.62445
r192 185 278 0.62445
r193 179 247 0.0151417
r194 179 186 0.624484
r195 178 246 0.231882
r196 177 247 0.231882
r197 177 178 0.53136
r198 175 176 0.62445
r199 175 277 0.62445
r200 169 246 0.0151417
r201 169 176 0.624484
r202 168 245 0.231882
r203 167 246 0.231882
r204 167 168 0.53136
r205 165 166 0.62445
r206 165 276 0.62445
r207 159 245 0.0151417
r208 159 166 0.624484
r209 158 244 0.231882
r210 157 245 0.231882
r211 157 158 0.53136
r212 155 156 0.62445
r213 155 275 0.62445
r214 149 244 0.0151417
r215 149 156 0.624484
r216 148 243 0.231882
r217 147 244 0.231882
r218 147 148 0.53136
r219 145 146 0.62445
r220 145 274 0.62445
r221 139 243 0.0151417
r222 139 146 0.624484
r223 138 242 0.231882
r224 137 243 0.231882
r225 137 138 0.53136
r226 135 136 0.62445
r227 135 273 0.62445
r228 129 242 0.0151417
r229 129 136 0.624484
r230 128 241 0.231882
r231 127 242 0.231882
r232 127 128 0.53136
r233 125 126 0.62445
r234 125 272 0.62445
r235 119 241 0.0151417
r236 119 126 0.624484
r237 118 240 0.231882
r238 117 241 0.231882
r239 117 118 0.53136
r240 115 116 0.62445
r241 115 271 0.62445
r242 109 240 0.0151417
r243 109 116 0.624484
r244 108 239 0.231882
r245 107 240 0.231882
r246 107 108 0.53136
r247 105 106 0.62445
r248 105 270 0.62445
r249 99 239 0.0151417
r250 99 106 0.624484
r251 98 238 0.231882
r252 97 239 0.231882
r253 97 98 0.53136
r254 95 96 0.62445
r255 95 269 0.62445
r256 89 238 0.0151417
r257 89 96 0.624484
r258 88 237 0.231882
r259 87 238 0.231882
r260 87 88 0.53136
r261 85 86 0.62445
r262 85 268 0.62445
r263 79 237 0.0151417
r264 79 86 0.624484
r265 77 237 0.231882
r266 77 78 0.92988
r267 75 304 1
r268 73 301 1
r269 73 75 0.2952
r270 71 298 1
r271 71 73 0.2952
r272 68 69 0.9594
r273 67 294 1
r274 67 71 0.2952
r275 67 69 0.9594
r276 65 78 0.260498
r277 65 68 0.9594
r278 63 64 1.12052
r279 63 292 13.8255
r280 60 63 2.98806
r281 60 291 10.3922
r282 59 60 3.73508
r283 59 290 10.3922
r284 57 59 7.47016
r285 57 289 10.3922
r286 54 57 0.747016
r287 54 288 10.3922
r288 53 54 6.72314
r289 53 287 10.3922
r290 50 53 5.22911
r291 50 286 10.3922
r292 49 50 1.49403
r293 49 285 15.5135
r294 47 49 0.747016
r295 45 47 9.7112
r296 45 284 10.3922
r297 41 304 1
r298 41 292 7.17942
r299 39 301 1
r300 39 41 5.2214
r301 37 298 1
r302 37 39 5.2214
r303 35 294 1
r304 35 64 8.83075
r305 35 37 5.2214
r306 29 60 10.3922
r307 29 291 13.0535
r308 25 59 10.3922
r309 25 290 29.3704
r310 21 57 10.3922
r311 21 289 29.3704
r312 17 54 10.3922
r313 17 288 13.0535
r314 13 53 10.3922
r315 13 287 29.3704
r316 9 50 10.3922
r317 9 286 13.0535
r318 5 47 10.3922
r319 5 285 29.3704
r320 1 45 10.3922
r321 1 284 13.0535
.ends

.subckt PM_INVD8_VSS 1 275 276 277 278 279 280 281 282 283 284 285 286 287 288
+ 289 290 291 292 293 294 295
r64 304 307 0.126514
r65 301 304 0.126514
r66 297 301 0.126514
r67 259 307 1
r68 257 304 1
r69 257 259 0.2952
r70 255 301 1
r71 255 257 0.2952
r72 252 297 1
r73 252 255 0.2952
r74 250 259 0.221385
r75 249 266 0.397738
r76 248 250 0.260498
r77 248 249 0.8856
r78 244 266 0.0706443
r79 244 282 0.474429
r80 243 265 0.397738
r81 242 266 0.397738
r82 242 243 0.53136
r83 238 265 0.0706443
r84 238 281 0.474429
r85 237 264 0.397738
r86 236 265 0.397738
r87 236 237 0.53136
r88 232 264 0.0706443
r89 232 280 0.474429
r90 231 263 0.397738
r91 230 264 0.397738
r92 230 231 0.53136
r93 226 263 0.0706443
r94 226 279 0.474429
r95 225 262 0.397738
r96 224 263 0.397738
r97 224 225 0.53136
r98 220 262 0.0706443
r99 220 278 0.474429
r100 219 261 0.397738
r101 218 262 0.397738
r102 218 219 0.53136
r103 214 261 0.0706443
r104 214 277 0.474429
r105 213 260 0.397738
r106 212 261 0.397738
r107 212 213 0.53136
r108 208 260 0.0706443
r109 208 276 0.474429
r110 206 260 0.397738
r111 206 207 0.53136
r112 202 207 0.327655
r113 202 275 0.474429
r114 164 283 5.33573
r115 159 295 13.5974
r116 158 159 13.5974
r117 155 201 2.30802
r118 155 158 13.5974
r119 151 295 3.26338
r120 151 295 29.3704
r121 150 198 4.57327
r122 149 201 4.57327
r123 149 150 33.0689
r124 148 294 13.5974
r125 147 148 13.5974
r126 144 198 2.30802
r127 144 147 13.5974
r128 140 294 3.26338
r129 140 294 29.3704
r130 139 195 4.57327
r131 138 198 4.57327
r132 138 139 33.0689
r133 137 293 13.5974
r134 136 137 13.5974
r135 133 195 2.30802
r136 133 136 13.5974
r137 129 293 3.26338
r138 129 293 29.3704
r139 128 192 4.57327
r140 127 195 4.57327
r141 127 128 33.0689
r142 126 292 13.5974
r143 125 126 13.5974
r144 122 192 2.30802
r145 122 125 13.5974
r146 118 292 3.26338
r147 118 292 29.3704
r148 117 189 4.57327
r149 116 192 4.57327
r150 116 117 33.0689
r151 115 291 13.5974
r152 114 115 13.5974
r153 111 189 2.30802
r154 111 114 13.5974
r155 107 291 3.26338
r156 107 291 29.3704
r157 106 186 4.57327
r158 105 189 4.57327
r159 105 106 33.0689
r160 104 290 13.5974
r161 103 104 13.5974
r162 100 186 2.30802
r163 100 103 13.5974
r164 96 290 3.26338
r165 96 290 29.3704
r166 95 183 4.57327
r167 94 186 4.57327
r168 94 95 33.0689
r169 93 289 13.5974
r170 92 93 13.5974
r171 89 183 2.30802
r172 89 92 13.5974
r173 85 289 3.26338
r174 85 289 29.3704
r175 84 180 4.57327
r176 83 183 4.57327
r177 83 84 33.0689
r178 82 288 13.5974
r179 81 82 13.5974
r180 78 180 2.30802
r181 78 81 13.5974
r182 74 288 3.26338
r183 74 288 29.3704
r184 72 177 5.52744
r185 71 180 4.57327
r186 69 307 1
r187 69 287 15.0705
r188 67 304 1
r189 67 69 8.70233
r190 65 301 1
r191 65 67 8.70233
r192 62 63 23.9314
r193 61 297 1
r194 61 65 8.70233
r195 61 63 23.9319
r196 57 177 1.43649
r197 57 62 23.9314
r198 53 287 3.26338
r199 53 287 13.9123
r200 51 52 19.7251
r201 50 173 4.57327
r202 50 51 19.7251
r203 49 177 5.52744
r204 49 52 19.7256
r205 48 286 24.4753
r206 47 48 24.4753
r207 44 173 2.30802
r208 44 47 24.4753
r209 40 286 3.26338
r210 40 286 13.0535
r211 38 39 19.7251
r212 37 170 4.57327
r213 37 38 19.7251
r214 36 173 4.57327
r215 36 39 19.7256
r216 35 285 24.4753
r217 34 35 24.4753
r218 31 170 2.30802
r219 31 34 24.4753
r220 27 285 3.26338
r221 27 285 13.0535
r222 25 26 19.7251
r223 24 167 4.57327
r224 24 25 19.7251
r225 23 170 4.57327
r226 23 26 19.7256
r227 22 284 24.4753
r228 21 22 24.4753
r229 18 167 2.30802
r230 18 21 24.4753
r231 14 284 3.26338
r232 14 284 13.0535
r233 12 13 21.4656
r234 11 12 21.4656
r235 10 167 4.57327
r236 10 13 21.466
r237 6 283 3.26338
r238 6 283 9.79012
r239 5 164 39.1605
r240 4 5 39.1605
r241 2 11 7.29337
r242 2 4 39.1605
r243 1 71 25.933
r244 1 72 21.9299
.ends

.subckt PM_INVD8_VDD 1 14 23 32 41 53 62 71 80 89 98 107 116 155 156 157 158 159
+ 160 161 162 163 164 165 166
r84 116 154 2.30802
r85 116 166 26.1059
r86 110 166 3.26338
r87 110 166 29.3704
r88 109 151 4.57327
r89 108 154 4.57327
r90 108 109 33.0689
r91 107 151 2.30802
r92 107 165 26.1059
r93 101 165 3.26338
r94 101 165 29.3704
r95 100 148 4.57327
r96 99 151 4.57327
r97 99 100 33.0689
r98 98 148 2.30802
r99 98 164 26.1059
r100 92 164 3.26338
r101 92 164 29.3704
r102 91 145 4.57327
r103 90 148 4.57327
r104 90 91 33.0689
r105 89 145 2.30802
r106 89 163 26.1059
r107 83 163 3.26338
r108 83 163 29.3704
r109 82 142 4.57327
r110 81 145 4.57327
r111 81 82 33.0689
r112 80 142 2.30802
r113 80 162 26.1059
r114 74 162 3.26338
r115 74 162 29.3704
r116 73 139 4.57327
r117 72 142 4.57327
r118 72 73 33.0689
r119 71 139 2.30802
r120 71 161 26.1059
r121 65 161 3.26338
r122 65 161 29.3704
r123 64 136 4.57327
r124 63 139 4.57327
r125 63 64 33.0689
r126 62 136 2.30802
r127 62 160 26.1059
r128 56 160 3.26338
r129 56 160 29.3704
r130 55 133 4.57327
r131 54 136 4.57327
r132 54 55 33.0689
r133 53 133 2.30802
r134 53 159 26.1059
r135 47 159 3.26338
r136 47 159 29.3704
r137 45 46 17.1001
r138 43 130 4.57327
r139 43 45 17.1001
r140 42 133 4.57327
r141 41 130 2.30802
r142 41 158 26.1059
r143 35 158 3.26338
r144 35 158 29.3704
r145 34 127 4.57327
r146 33 130 4.57327
r147 33 34 33.0689
r148 32 127 2.30802
r149 32 157 26.1059
r150 26 157 3.26338
r151 26 157 29.3704
r152 25 124 4.57327
r153 24 127 4.57327
r154 24 25 33.0689
r155 23 124 2.30802
r156 23 156 26.1059
r157 17 156 3.26338
r158 17 156 29.3704
r159 16 121 4.57327
r160 15 124 4.57327
r161 15 16 33.0689
r162 14 121 2.30802
r163 14 155 26.1059
r164 8 155 3.26338
r165 8 155 29.3704
r166 1 42 33.9826
r167 1 46 17.1001
.ends

.subckt PM_INVD8_OUT 1 7 22 33 44 55 66 77 88 140 142 143 144 145 146 147 148
+ 149 150 151 152 153 154 155 156 157 158 159
r120 155 157 7.63148
r121 153 155 7.63148
r122 151 153 7.63148
r123 149 151 7.63148
r124 147 149 7.63148
r125 145 147 7.63148
r126 143 145 6.86834
r127 140 141 0.763148
r128 140 159 0.763148
r129 120 143 0.763148
r130 119 120 0.763148
r131 118 158 6.52456
r132 101 142 6.52456
r133 98 141 15.3504
r134 98 118 19.5802
r135 93 140 10.2406
r136 93 159 29.3704
r137 89 158 3.26338
r138 89 158 29.3704
r139 88 157 13.9714
r140 88 156 9.78903
r141 82 157 10.2406
r142 82 157 29.3704
r143 78 156 3.26338
r144 78 156 29.3704
r145 77 155 13.9714
r146 77 154 9.78903
r147 71 155 10.2406
r148 71 155 29.3704
r149 67 154 3.26338
r150 67 154 29.3704
r151 66 153 13.9714
r152 66 152 9.78903
r153 60 153 10.2406
r154 60 153 29.3704
r155 56 152 3.26338
r156 56 152 29.3704
r157 55 151 13.9714
r158 55 150 9.78903
r159 49 151 10.2406
r160 49 151 29.3704
r161 45 150 3.26338
r162 45 150 29.3704
r163 44 149 13.9714
r164 44 148 9.78903
r165 38 149 10.2406
r166 38 149 29.3704
r167 34 148 3.26338
r168 34 148 29.3704
r169 33 147 13.9714
r170 33 146 9.78903
r171 27 147 10.2406
r172 27 147 29.3704
r173 23 146 3.26338
r174 23 146 29.3704
r175 22 145 13.9714
r176 22 144 9.78903
r177 16 145 10.2406
r178 16 145 29.3704
r179 12 144 3.26338
r180 12 144 29.3704
r181 8 120 10.2406
r182 8 143 29.3704
r183 7 119 15.3504
r184 7 101 19.5802
r185 2 142 3.26338
r186 2 142 29.3704
r187 1 159 5.38783
r188 1 157 1.48051
.ends

.subckt PM_INVD8_IN 1 6 13 14 16 23 26 33 34 36 43 46 53 54 56 63 66 73 74 76 83
+ 88 95 96 98 105 108 115 116 118 125 128 135 136 138 145 148 155 156 158 165
+ 168 175 176 178 185 188 195 196 198 205 208 215 216 218 225 228 235 236 238
+ 245 293 294 295 296 297 298 299 300 301 302 303 304 305 306 307 308 309 310
+ 311 312 313 314 315 316
r182 244 245 0.62445
r183 244 316 0.62445
r184 238 245 0.624484
r185 237 268 0.231882
r186 236 238 0.252919
r187 236 237 0.53136
r188 234 235 0.62445
r189 234 315 0.62445
r190 228 268 0.0151417
r191 228 235 0.624484
r192 227 267 0.231882
r193 226 268 0.231882
r194 226 227 0.53136
r195 224 225 0.62445
r196 224 314 0.62445
r197 218 267 0.0151417
r198 218 225 0.624484
r199 217 266 0.231882
r200 216 267 0.231882
r201 216 217 0.53136
r202 214 215 0.62445
r203 214 313 0.62445
r204 208 266 0.0151417
r205 208 215 0.624484
r206 207 265 0.231882
r207 206 266 0.231882
r208 206 207 0.53136
r209 204 205 0.62445
r210 204 312 0.62445
r211 198 265 0.0151417
r212 198 205 0.624484
r213 197 264 0.231882
r214 196 265 0.231882
r215 196 197 0.53136
r216 194 195 0.62445
r217 194 311 0.62445
r218 188 264 0.0151417
r219 188 195 0.624484
r220 187 263 0.231882
r221 186 264 0.231882
r222 186 187 0.53136
r223 184 185 0.62445
r224 184 310 0.62445
r225 178 263 0.0151417
r226 178 185 0.624484
r227 177 262 0.231882
r228 176 263 0.231882
r229 176 177 0.53136
r230 174 175 0.62445
r231 174 309 0.62445
r232 168 262 0.0151417
r233 168 175 0.624484
r234 167 261 0.231882
r235 166 262 0.231882
r236 166 167 0.53136
r237 164 165 0.62445
r238 164 308 0.62445
r239 158 261 0.0151417
r240 158 165 0.624484
r241 157 260 0.231882
r242 156 261 0.231882
r243 156 157 0.53136
r244 154 155 0.62445
r245 154 307 0.62445
r246 148 260 0.0151417
r247 148 155 0.624484
r248 147 259 0.231882
r249 146 260 0.231882
r250 146 147 0.53136
r251 144 145 0.62445
r252 144 306 0.62445
r253 138 259 0.0151417
r254 138 145 0.624484
r255 137 258 0.231882
r256 136 259 0.231882
r257 136 137 0.53136
r258 134 135 0.62445
r259 134 305 0.62445
r260 128 258 0.0151417
r261 128 135 0.624484
r262 127 257 0.231882
r263 126 258 0.231882
r264 126 127 0.53136
r265 124 125 0.62445
r266 124 304 0.62445
r267 118 257 0.0151417
r268 118 125 0.624484
r269 117 256 0.231882
r270 116 257 0.231882
r271 116 117 0.53136
r272 114 115 0.62445
r273 114 303 0.62445
r274 108 256 0.0151417
r275 108 115 0.624484
r276 107 255 0.231882
r277 106 256 0.231882
r278 106 107 0.53136
r279 104 105 0.62445
r280 104 302 0.62445
r281 98 255 0.0151417
r282 98 105 0.624484
r283 97 254 0.231882
r284 96 255 0.231882
r285 96 97 0.53136
r286 94 95 0.62445
r287 94 301 0.62445
r288 88 254 0.0151417
r289 88 95 0.624484
r290 86 87 1.06272
r291 85 253 0.231882
r292 85 86 1.06272
r293 84 254 0.231882
r294 84 87 1.06272
r295 82 83 0.62445
r296 82 300 0.62445
r297 76 253 0.0151417
r298 76 83 0.624484
r299 75 252 0.231882
r300 74 253 0.231882
r301 74 75 0.53136
r302 72 73 0.62445
r303 72 299 0.62445
r304 66 252 0.0151417
r305 66 73 0.624484
r306 65 251 0.231882
r307 64 252 0.231882
r308 64 65 0.53136
r309 62 63 0.62445
r310 62 298 0.62445
r311 56 251 0.0151417
r312 56 63 0.624484
r313 55 250 0.231882
r314 54 251 0.231882
r315 54 55 0.53136
r316 52 53 0.62445
r317 52 297 0.62445
r318 46 250 0.0151417
r319 46 53 0.624484
r320 45 249 0.231882
r321 44 250 0.231882
r322 44 45 0.53136
r323 42 43 0.62445
r324 42 296 0.62445
r325 36 249 0.0151417
r326 36 43 0.624484
r327 35 248 0.231882
r328 34 249 0.231882
r329 34 35 0.53136
r330 32 33 0.62445
r331 32 295 0.62445
r332 26 248 0.0151417
r333 26 33 0.624484
r334 25 247 0.231882
r335 24 248 0.231882
r336 24 25 0.53136
r337 22 23 0.62445
r338 22 294 0.62445
r339 16 247 0.0151417
r340 16 23 0.624484
r341 15 246 0.231882
r342 14 247 0.231882
r343 14 15 0.53136
r344 12 13 0.62445
r345 12 293 0.62445
r346 6 246 0.0151417
r347 6 13 0.624484
r348 4 246 0.231882
r349 4 5 1.19556
r350 2 5 0.311719
r351 1 2 0.655344
.ends

