* File: NAND2D1.pex.netlist.pex
* Created: Sat Dec 13 11:04:21 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND2D1_net14 14 15 27 28 37 42 48 49 54 60 70 71 72 73 74 75 77 79
r72 89 91 0.413569
r73 86 89 0.00212097
r74 81 84 0.52811
r75 79 89 0.320546
r76 79 84 1.84026
r77 59 60 0.719822
r78 59 73 0.719822
r79 55 60 0.719857
r80 53 54 0.719822
r81 53 72 0.719822
r82 49 55 0.812477
r83 49 54 0.719857
r84 47 48 0.719822
r85 47 71 0.719822
r86 43 49 0.812477
r87 43 48 0.719857
r88 41 42 0.719822
r89 41 70 0.719822
r90 37 43 0.812477
r91 37 42 0.719857
r92 36 86 1.5625
r93 33 86 0.520833
r94 33 36 0.52811
r95 31 37 0.264055
r96 31 36 0.656075
r97 28 77 21.3068
r98 27 28 21.3059
r99 24 27 21.3059
r100 23 91 1.5625
r101 21 91 0.520833
r102 21 23 13.9095
r103 19 21 9.04115
r104 18 24 7.39434
r105 18 23 3.79835
r106 15 75 21.3068
r107 14 15 21.3059
r108 11 19 7.39434
r109 11 14 21.3059
r110 9 84 1.5625
r111 7 81 0.520833
r112 7 9 16.9695
r113 5 7 2.93704
r114 1 5 7.78998
r115 1 74 40.1395
.ends

.subckt PM_NAND2D1_VSS 1 18 24 25 31 32 56 57 58 59 61
r20 68 70 0.406521
r21 64 67 0.250278
r22 62 68 0.263356
r23 62 67 0.2214
r24 53 67 0.223214
r25 51 64 0.195312
r26 51 53 0.250278
r27 48 51 0.0962609
r28 44 48 0.147941
r29 44 56 1.58556
r30 39 57 3.58814
r31 32 61 17.0131
r32 31 32 17.0131
r33 25 59 17.0131
r34 24 25 17.0131
r35 21 31 17.0131
r36 21 24 17.0131
r37 21 58 32.7208
r38 18 58 7.1293
r39 18 58 25.1933
r40 15 21 10.1625
r41 13 70 0.223214
r42 11 70 0.195312
r43 11 13 4.03077
r44 11 39 7.34841
r45 8 58 2.54013
r46 8 13 12.1388
r47 1 15 4.24582
.ends

.subckt PM_NAND2D1_OUT 1 5 6 13 16 19 20 25 26 30 31 39 40 44 45 56 58 60 62 64
+ 66
r81 52 53 11.3098
r82 50 51 11.1011
r83 48 50 17.7297
r84 45 66 21.5096
r85 44 45 21.5091
r86 41 55 3.70269
r87 41 44 21.5091
r88 39 40 24.1055
r89 39 64 24.1055
r90 34 53 3.70269
r91 34 40 24.1055
r92 31 62 21.5096
r93 30 31 21.5091
r94 27 52 3.70269
r95 27 30 21.5091
r96 25 26 24.1055
r97 25 60 24.1055
r98 20 52 10.5449
r99 20 26 24.1055
r100 18 19 46.3221
r101 18 51 46.3221
r102 16 20 10.2459
r103 16 19 46.3229
r104 13 58 21.5096
r105 12 13 21.5091
r106 9 50 5.01931
r107 9 12 21.5091
r108 6 56 21.5096
r109 5 6 21.5091
r110 2 48 5.01931
r111 2 5 21.5091
r112 1 55 1.91228
r113 1 53 8.63258
.ends

.subckt PM_NAND2D1_VDD 1 4 9 12 17 18 21 26 27 30 35 36 39 44 45 48 53 54 57 62
+ 72 73 75 77 79 81 83
r87 61 62 30.4577
r88 61 83 30.4577
r89 57 71 3.03423
r90 57 62 30.459
r91 56 70 5.52744
r92 55 71 3.89768
r93 55 56 21.7558
r94 53 54 20.3052
r95 53 81 20.3052
r96 48 70 1.43649
r97 48 54 20.306
r98 47 69 5.52744
r99 46 70 5.52744
r100 46 47 21.7558
r101 44 45 20.3052
r102 44 79 20.3052
r103 39 69 1.43649
r104 39 45 20.306
r105 37 69 5.52744
r106 37 38 21.7558
r107 35 36 20.3052
r108 35 77 20.3052
r109 30 36 20.306
r110 29 67 5.52744
r111 28 29 21.7558
r112 26 27 20.3052
r113 26 75 20.3052
r114 21 67 1.43649
r115 21 27 20.306
r116 20 66 5.52744
r117 19 67 5.52744
r118 19 20 21.7558
r119 17 18 20.3052
r120 17 73 20.3052
r121 12 66 1.43649
r122 12 18 20.306
r123 11 65 3.89768
r124 10 66 5.52744
r125 10 11 21.7558
r126 8 9 30.4577
r127 8 72 30.4577
r128 4 65 3.03423
r129 4 9 30.459
r130 1 30 1.43649
r131 1 28 5.52744
r132 1 38 5.52744
.ends

.subckt PM_NAND2D1_IN1 1 11 14 17 18 20 21 22 25 26 28 34 36 37 38 41 42 44 50
+ 52 53 54 57 58 60 81 82 83 84 85 86
r87 59 60 0.65284
r88 59 86 0.65284
r89 58 86 0.652857
r90 57 58 0.65284
r91 54 60 0.652857
r92 53 57 0.65284
r93 51 52 0.65284
r94 51 85 0.65284
r95 50 85 0.652857
r96 49 50 0.65284
r97 46 54 1.1808
r98 46 52 0.652857
r99 45 53 1.1808
r100 45 49 0.65284
r101 43 44 0.65284
r102 43 84 0.65284
r103 42 84 0.652857
r104 41 42 0.65284
r105 38 46 1.1808
r106 38 44 0.652857
r107 37 45 1.1808
r108 37 41 0.65284
r109 35 36 0.65284
r110 35 83 0.65284
r111 34 83 0.652857
r112 33 34 0.65284
r113 30 38 1.1808
r114 30 36 0.652857
r115 29 37 1.1808
r116 29 33 0.65284
r117 27 28 0.65284
r118 27 82 0.65284
r119 26 82 0.652857
r120 25 26 0.65284
r121 22 30 1.1808
r122 22 28 0.652857
r123 21 29 1.1808
r124 21 25 0.65284
r125 19 20 0.65284
r126 19 81 0.65284
r127 18 81 0.652857
r128 17 18 0.65284
r129 14 22 1.1808
r130 14 20 0.652857
r131 13 21 1.1808
r132 13 17 0.65284
r133 11 14 0.38376
r134 11 12 0.79704
r135 9 13 0.38376
r136 9 10 0.79704
r137 7 8 1.21522
r138 5 6 1.04796
r139 3 12 0.247405
r140 3 8 1.21528
r141 2 10 0.247405
r142 2 5 1.04796
r143 1 7 1.21522
r144 1 6 1.04796
.ends

.subckt PM_NAND2D1_IN2 1 3 6 7 9 10 11 14 15 17 23 25 26 27 30 31 33 39 41 43 46
+ 47 49 51 52 53 81 82 83 84 85 86
r89 59 60 1.02827
r90 57 58 1.23491
r91 55 60 1.0283
r92 54 57 1.23491
r93 52 55 0.247405
r94 52 53 0.79704
r95 50 54 0.247405
r96 50 51 0.79704
r97 48 49 0.65284
r98 48 86 0.65284
r99 47 86 0.652857
r100 46 47 0.65284
r101 43 53 0.38376
r102 43 49 0.652857
r103 42 51 0.38376
r104 42 46 0.65284
r105 40 41 0.65284
r106 40 85 0.65284
r107 39 85 0.652857
r108 38 39 0.65284
r109 35 43 1.1808
r110 35 41 0.652857
r111 34 42 1.1808
r112 34 38 0.65284
r113 32 33 0.65284
r114 32 84 0.65284
r115 31 84 0.652857
r116 30 31 0.65284
r117 27 35 1.1808
r118 27 33 0.652857
r119 26 34 1.1808
r120 26 30 0.65284
r121 24 25 0.65284
r122 24 83 0.65284
r123 23 83 0.652857
r124 22 23 0.65284
r125 19 27 1.1808
r126 19 25 0.652857
r127 18 26 1.1808
r128 18 22 0.65284
r129 16 17 0.65284
r130 16 82 0.65284
r131 15 82 0.652857
r132 14 15 0.65284
r133 11 19 1.1808
r134 11 17 0.652857
r135 10 18 1.1808
r136 10 14 0.65284
r137 8 9 0.65284
r138 8 81 0.65284
r139 7 81 0.652857
r140 6 7 0.65284
r141 3 11 1.1808
r142 3 9 0.652857
r143 2 10 1.1808
r144 2 6 0.65284
r145 1 59 1.02827
r146 1 58 1.23494
.ends

